US04871865
(b) (E)/(Z)-3-(8-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine
Anhydrous 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide (24.5 g, 48 mmole), 96 mmole of n-butyl lithium in hexane, and 8-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one (10 g, 34.6 mmole) were reacted in 580 mL dry tetrahydrofuran by the procedure of Example I, step b. This provided an E/Z (1:3.5) isomeric mixture of bromoamines. Recrystallization of the mixture from diethyl ether gave 0.17 g of Z-isomer and 1.8 g of an E/Z (1:4) (assayed by HPLC on C18) isomeric mixture which was used in the next step without further purification. pmr (Z-isomer) (CDCl3) δ: 7.38-7.44 (m, 2H, H7 and H9); 7.13-7.18 (m, 3H, aromaatic H); 6.84-6.93 (m, 2H, H2 and H4); 5.70 (t, 1H, CH=); 5.15 (br s, 2H, ArCH2O); 2.55 (q, 2H, CH2); 2.43 (t, 2H, NCH2 ); 2.22 (s, 6H, NMe2).

reactant | 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide | 48 mmole, 24.5 g | Br.[Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyl lithium | 96 mmole | C(CCC)[Li]
reactant | 8-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one | 34.6 mmole, 10 g | BrC1=CC2=C(C(C3=C(OC2)C=CC=C3)=O)C=C1 | C14H9BrO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 580 mL | O1CCCC1 | C4H8O
product | (Z)-3-(8-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine | BrC1=CC2=C(/C(/C3=C(OC2)C=CC=C3)=C/CCN(C)C)C=C1 | C19H20BrNO
